US05750531
Synthesis of 6-methyl-2-(N-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After N-methylaniline(0.9 ml, 8.4 mmol) was added to a mixture solution of 6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(1.5 g, 5.5 mmol) and dimethylformamide(10 ml), 1.2 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1

reactant | N-methylaniline | 8.4 mmol, 0.9 ml | CNC1=CC=CC=C1 | C7H9N
reactant | 6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 5.5 mmol, 1.5 g | CC1=CC(=NC(=N1)Cl)N1C(C2=CC=CC=C2CC1)C | C15H16ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-methyl-2-(N-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 1.2 g, Yield: 57.3% | Cl.CC1=CC(=NC(=N1)N(C)C1=CC=CC=C1)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C22H24N4.ClH/c1-16-15-21(24-22(23-16)25(3)19-10-5-4-6-11-19)26-14-13-18-9-7-8-12-20(18)17(26)2;/h4-12,15,17H,13-14H2,1-3H3;1H
